US07781584B2
2-(6-Chloro-3-methyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-ylmethyl)-4-fluoro-benzonitrile (33).
A mixture of crude 3-methyl-6-chlorouracil (0.6 g, 3.8 mmol), 2-bromomethyl-4-fluorobenzonitrile (0.86 g, 4 mmol) and K2CO3 (0.5 g, 4 mmol) in DMSO (10 mL) was stirred at 60° C. for 2 hours. The reaction was diluted with water and extracted with EtOAc. The organics were dried over MgSO4 and the solvent removed. The residue was purified by column chromatography. 0.66 g of the product was obtained (yield: 60%). 1H-NMR (400 MHz, CDCl3): δ 7.73 (dd, J=7.2, 8.4 Hz, 1H), 7.26 (d, J=4.0 Hz, 1H), 7.11-7.17 (m, 1H), 6.94 (dd, J=2.0, 9.0 Hz, 1H), 6.034 (s, 2H), 3.39 (s, 3H). MS (ES) [m+H] calc'd for C13H9ClFN3O2, 293.68; found 293.68.

reactant | 3-methyl-6-chlorouracil | 3.8 mmol, 0.6 g | CN1C(NC(=CC1=O)Cl)=O | C5H5ClN2O2
reactant | 2-bromomethyl-4-fluorobenzonitrile | 4 mmol, 0.86 g | BrCC1=C(C#N)C=CC(=C1)F | C8H5BrFN
reactant | K2CO3 | 4 mmol, 0.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(6-Chloro-3-methyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-ylmethyl)-4-fluoro-benzonitrile | 0.66 g, yield: 60% | ClC1=CC(N(C(N1CC1=C(C#N)C=CC(=C1)F)=O)C)=O | C13H9ClFN3O2
